US09233098B2
6. Preparation of 2-[3-[4-(2-naphthamido)benzyl]-1H-indazol-1-yl]acetic acid
575 mg (1.24 mmol) ethyl 2-[3-[4-(2-naphthamido)benzyl]-1H-indazol-1-yl]acetate was dissolved in a mixed solution of 10 mL tetrahydrofuran and 3 mL methanol, in an ice bath 10 mL aqueous solution dissolving 333 mg (7.93 mmol) lithium hydroxide monohydrate was added. It was reacted at room temperature for 3 h, and the reaction was monitored to be complete by TLC. Water was added into the system, the pH value was adjusted to be acidic with diluted hydrochloric acid. A solid precipitated, it was filtered, dried to obtain a white solid 470 mg (1.08 mmol), at a yield of 87.1%.

reactant | ethyl 2-[3-[4-(2-naphthamido)benzyl]-1H-indazol-1-yl]acetate | 1.24 mmol, 575 mg | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CC2=NN(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C29H25N3O3
reactant | lithium hydroxide monohydrate | 7.93 mmol, 333 mg | O.[OH-].[Li+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
product | 2-[3-[4-(2-naphthamido)benzyl]-1H-indazol-1-yl]acetic acid | 1.08 mmol, 470 mg, yield of 87.1% | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CC2=NN(C3=CC=CC=C23)CC(=O)O)C=C1 | C27H21N3O3
